US07569578B2
(±)-4-(7-methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid tert-butyl ester
To a 50-mL oven-dried flask was added di-n-butylsulfide (261 mg, 1.781 mmol, 6.4 equiv) and cuprous iodide (170 mg, 0.891 mmol, 3.2 equiv) under nitrogen. Anhydrous ether (1 mL) was added and the suspension was cooled to 0° C. before the solution of 2-pyridinyl lithium was added via canuula. A yellowish brown precipitate was formed. After stirring at 0° C. for 15 min, the cooling bath was removed and 4-(7-methyl-1H-indazol-5-yl)-but-2-enoic acid tert-butyl ester (75.8 mg, 0.278 mmol, 1.0 equiv) in anhydrous ether (1 mL) was added via syringe. The dark solution was stirred at room temperature for 40 min. LCMS indicated the formation of the desired product. The reaction mixture was then partitioned between an aqueous ammonium hydroxide/ammonium chloride solution and ethyl acetate (upon shaking, the solids gradually dissolved to a blue aqueous solution). The layers were separated and the organic layer was washed with water, brine, dried over sodium sulfate and concentrated in vacuo to an oil. Careful flash column chromatography (5% methanol in methylene chloride) afforded the desired product (10.4 mg, 11%) which was carried on without farther purification. MS (ESI) 352 (M H)+, 296 (M-tBu)+.

reactant | di-n-butylsulfide | 1.781 mmol, 261 mg, 6.4 equiv | C(CCC)SCCCC | C8H18S
reactant | 2-pyridinyl lithium | N1=C(C=CC=C1)[Li]
reactant | 4-(7-methyl-1H-indazol-5-yl)-but-2-enoic acid tert-butyl ester | 0.278 mmol, 75.8 mg, 1.0 equiv | C(C)(C)(C)OC(C=CCC=1C=C2C=NNC2=C(C1)C)=O | C16H20N2O2
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | ether | 1 mL | CCOCC | C4H10O
product | (±)-4-(7-methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(CC=1C=C2C=NNC2=C(C1)C)C1=NC=CC=C1)=O | C21H25N3O2
